US04069250
A mixture of 5-amino-2,4,6-triiodo-N-[tris(hydroxymethyl) methyl]isophthalamic acid and glacial acetic acid is heated in the presence of a catalytic amount of mineral acid (such as sulfuric acid or dry hydrogen chloride) or a dry cation exchange resin (strong acid form). Molecular sieves may be used to act as a water scavenger. After the reaction is complete the acid catalyst is neutralized, or in the case of use of molecular sieves and the cation-exchange resin, the reaction mixture is filtered. The solution is then concentrated in high vacuum to provide the desired 5-amino-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]isophthalamic acid in sufficient purity for use as an intermediate.

reactant | 5-amino-2,4,6-triiodo-N-[tris(hydroxymethyl) methyl]isophthalamic acid | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(CO)(CO)CO)I | C12H13I3N2O6
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 5-amino-2,4,6-triiodo-N-[tris(acetoxymethyl)methyl]isophthalamic acid | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(COC(C)=O)(COC(C)=O)COC(C)=O)I | C18H19I3N2O9
